Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
flu shot
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Mr. ___ is a pleasant ___ y/o man with PMH notable for HTN,
tobacco use, and anxiety/depression (self medicated with
marijuana), who presents with syncope and multiple traumatic
injuries ___efore the incident, he states that he was in his normal state 
of
health the day of presentation (on ___. Earlier that
morning, he states that he was working pushing fertilizer (~50
pounds of it) and moving heavy machinery. Then, some time later
(he does not remember how long, but thinks it was "a while"), he
was in his truck driving and pulled over at his clients house. 
He
stated that he suddenly felt very hot, weak, lightheaded,
nauseated, flushed, and overall like he was going to faint. He
opened the truck door to vomit and the next thing he remembers 
is
being found on the ground with EMS around him. He does not 
recall
exactly how he felt after waking up, as he was distracted by the
pain and shock of passing out. He does state that he has not 
been
eating as well recently because he has been getting full more
easily and on day of presentation only had a piece of candy in
the morning. He also states that he was holding in his urine
prior to the episode. 

Note that he has had multiple similar episodes in the past, but
only one recently - he cannot remember when, but maybe within a
few months. This was in the context of getting his tattoo on the
left arm and he remembers a similar sequence of events with
prodromal nausea and lightheadedness prior to syncope. He also
has had episodes in the past - one in which he recall years ago
while walking to the bathroom. He states that he was drinking a
few beers with his son when he got up to walk to the bathroom.
There, he began feeling similarly nauseated and lightheaded,
prior to slowly lowering himself to the bathmat. He recalls
coming to without any major injuries and feeling not quite like
himself for a few minutes, having urinated himself.

 He does not recall urinating himself or defecating himself this
time. He denies any preceding chest pain/pressure, abdominal
discomfort, palpitations, SOB/DOE, or increasing ___ swelling
immediately prior to his syncopal event or the few days/weeks
before. He has never had any cardiac issues in the past and
denies every having syncope during or immediately after 
exertion.

He was brought to the ___ ED after EMS arrived after this
syncopal event and work-up here has been notable for reassuring
ECG (read below), scalp laceration (stapled), C3 spinous process
fx (in hard collar), T5 compression fx. He has had stable BP's
with only abnormal lab being leukocytosis without clear etiology
but then resolved with subsequent lab draws. He denies any drug
use or recent drinking, only marijuana use. 

Denies any chest pain or shortness of breath. No abdominal pain.
No nausea or vomiting. Denies any headache, vision changes or
neck pain. Does complain mainly of upper back pain. Denies any
numbness or paresthesias.

In the ED:

Initial vital signs were notable for:
- Temp:98.6, HR: 73, BP: 147/95, RR:16, 98% RA

Exam notable for:
Con: Lying in bed, c-collar in place. No acute distress
HEENT: 2 cm vertical laceration of the scalp. Dry blood noted on
his scalp as well. PERRLA, no icterus. EOMI. no septal hematoma.
No hemotympanum bilaterally
Neck: Trachea midline. No JVD. Midline tenderness over C3 and 
C4.
No midline tenderness over thoracic or lumbar ___. 
Resp: No incr WOB, CTAB. No chest wall crepitus
CV: RRR. Normal S1/S2. 2+ radial pulse bilaterally
Abd: Soft, Nontender, Nondistended.
MSK: ___ without edema. No joint stability, no focal tenderness
over long bone. ___ strength in the deltoids and triceps. ___ at
the hips bilaterally.
DRE: Normal rectal tone, no gross blood
Skin: No rash, Warm and dry, No petechiae
Neuro: AOx3, speech fluent, no obvious facial asymmetry, moves
all 4 ext to command.
Psych: Normal mentation

Labs were notable for:
- BNP in the black except for glucose, 106
- 15.5> 14.3/42.3 <230 --> 8.9> 13.8/41.2 <251
- ___: 11.0 PTT: 22.6 INR: 1.0
- Lactate: 1.8
- Trop-T: <0.01
- Serum ASA, EtOH, Acetmnphn, Tricyc: Negative
- Urine Benzos, Barbs, Opiates, Cocaine, Amphet, Mthdne,
Oxycodone: Negative 
- UA: unremarkable

Studies performed include:
-Trauma #3 (Port Chest Only):
No acute cardiopulmonary process.

-CT Head W/O Contrast:
No evidence of fracture or intracranial hemorrhage.

-CT ___ W/O Contrast:
IMPRESSION: 
1. Acute mildly displaced comminuted fracture involving the
spinous process of C3. No other fractures visualized. 
2. No evidence of traumatic malalignment. 

-CT Chest W/Contrast
-CT Abd & Pelvis With Contrast:
IMPRESSION: 
 1. Acute compression fracture involving the inferior endplate 
of
T5 with moderate loss of height, but no retropulsion. 
 2. Mild height loss at the T3 and T4 vertebral bodies as well
which may also be acute at the T3 level. 
 3. No other acute traumatic injuries within the chest, abdomen,
or pelvis. No free fluid. 
 4. Incidental findings include mild emphysema, a 1.7 cm hepatic
hemangioma and a patulous upper esophagus with fluid, which may
reflect dysmotility. 

-MR ___ W/O Contrast
-MR ___ W/O Contrast:
IMPRESSION:
1. Known C3 spinous process fracture, better depicted on the
concurrent CT, with widening of the intraspinous intervals and
associated soft tissue edema, suspicious for interspinous
ligament disruption and muscle strain. 
 2. Focal disruption of the anterior longitudinal ligament at
C3-C4 with prevertebral fluid spanning from C2 through C4. 
 3. Acute superior endplate compression fractures of T2, T3 and
T5. Likely also of T4 with a maximum of 50% vertebral body 
height
loss at T5. Vertebral body alignment remains maintained. No
significant retropulsion at either level. 
 4. Mild degenerative changes of the cervical and thoracic ___
without spinal canal stenosis or significant neural foraminal
narrowing. 

- ___, Trauma Preliminary Report:
Re-demonstration of mildly displaced comminuted fracture of the
C3 spinous process 

Patient was given:
- OxyCODONE (Immediate Release) 5 mg po
- Ondansetron 4 mg iv
- Ketorolac 15 mg iv
- Acetaminophen 650 mg po
- NS IV
- HYDROmorphone (Dilaudid) 0.5 mg IV
- Ondansetron 4 mg IV

Consults:`
- Cardiology 
- ___
- Trauma surgery 

Vitals on transfer:

Upon arrival to the floor, 
He remained stable. He still had a headache from earlier in the
day but did not think it was getting acutely worse. 
He did endorse feeling nauseous and feeling hot. Denied cravings
for cigarettes at this moment. 

REVIEW OF SYSTEMS:

Complete ROS obtained and is otherwise negative.
 
Past Medical History:
- Anxiety
- Depression
- Hypertension (no medications)
- Tobacco smoker 
- ___ Syndrome (as a kid)
 
Social History:
___
Family History:
No family history of arrhythmias, sudden death, or members with
PPM. He does have father with CAD, grandfather with CABG, and
HTN/DM2 in family. No premature CAD that he can recall.

 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
GENERAL: Alert and interactive. In no acute distress. Laceration
on forehead with 4 staples present. Dried blood present, not
actively bleeding
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: Upper back spinous process tenderness. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. AOx3.

=======================
DISCHARGE PHYSICAL EXAM
=======================
VS: afebrile, BP 130s/80s-90s, HR ___, O2 sat 94-97% on room 
air 
GENERAL: Alert and interactive. In no acute distress. Laceration
on forehead with 4 staples present. Dried blood present, not
actively bleeding. Wearing hard C collar.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: WWP. No ___ edema.
NEUROLOGIC: AOx3. ___ strength throughout. Normal gait.
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 04:25PM   ___ PTT-22.6* ___
___ 04:25PM   PLT COUNT-251
___ 04:25PM   NEUTS-62.6 ___ MONOS-5.9 EOS-4.3 
BASOS-0.8 IM ___ AbsNeut-5.59 AbsLymp-2.21 AbsMono-0.53 
AbsEos-0.38 AbsBaso-0.07
___ 04:25PM   WBC-8.9 RBC-4.33* HGB-13.8 HCT-41.2 MCV-95 
MCH-31.9 MCHC-33.5 RDW-12.8 RDWSD-44.6
___ 04:25PM   estGFR-Using this
___ 04:25PM   GLUCOSE-117* LACTATE-1.8 CREAT-0.9 NA+-140 
K+-3.8 CL--101 TCO2-22
___ 04:25PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 04:25PM   cTropnT-<0.01
___ 04:25PM   LIPASE-33
___ 04:25PM   UREA N-13
___ 11:00PM   cTropnT-<0.01
___ 12:26AM URINE  MUCOUS-RARE*
___ 12:26AM URINE  RBC-3* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 12:26AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:26AM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 12:26AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:26AM URINE  HOURS-RANDOM
___ 06:15AM   PLT COUNT-230
___ 06:15AM   WBC-15.5* RBC-4.52* HGB-14.3 HCT-42.3 MCV-94 
MCH-31.6 MCHC-33.8 RDW-12.7 RDWSD-43.8
___ 06:15AM   CALCIUM-9.4 PHOSPHATE-4.2 MAGNESIUM-2.0
___ 06:15AM   ALT(SGPT)-22 AST(SGOT)-26 ALK PHOS-76
___ 06:15AM   estGFR-Using this
___ 06:15AM   GLUCOSE-106* UREA N-12 CREAT-0.7 SODIUM-138 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-23 ANION GAP-15

=================
PERTINENT STUDIES
=================
CXR ___
No acute cardiopulmonary process.

___ ___
No evidence of fracture or intracranial hemorrhage.

CT chest/abdomen/pelvis with contrast ___
1. Acute compression fracture involving the inferior endplate of 
T5 with
moderate loss of height, but no retropulsion.
2. Mild height loss at the T3 and T4 vertebral bodies as well 
which may also
be acute at the T3 level.
3. No other acute traumatic injuries within the chest, abdomen, 
or pelvis.  No
free fluid.
4. Incidental findings include mild emphysema, a 1.7 cm hepatic 
hemangioma and
a patulous upper esophagus with fluid, which may reflect 
dysmotility.

CT C ___ without contrast ___
1. Acute mildly displaced comminuted fracture involving the 
spinous process of
C3.  No other fractures visualized.
2. No evidence of traumatic malalignment.

MRI cervical and thoracic ___ ___
1. Known C3 spinous process fracture, better depicted on the 
concurrent CT,
with widening of the intraspinous intervals and associated soft 
tissue edema,
suspicious for interspinous ligament disruption and muscle 
strain.
2. Focal disruption of the anterior longitudinal ligament at 
C3-C4 with
prevertebral fluid spanning from C2 through C4.
3. Acute superior endplate compression fractures of T2, T3 and 
T5.  Likely
also of T4 with a maximum of 50% vertebral body height loss at 
T5.  Vertebral
body alignment remains maintained.  No significant retropulsion 
at either
level.
4. Mild degenerative changes of the cervical and thoracic ___ 
without spinal
canal stenosis or significant neural foraminal narrowing.

X ray C ___ ___
Re-demonstration of mildly displaced comminuted fracture of the 
C3 spinous process.

TTE ___
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is normal left ventricular wall
thickness with a normal cavity size. There is normal regional 
and global left ventricular systolic function.
Quantitative biplane left ventricular ejection fraction is 72 %. 
There is no left ventricular outflow tract
gradient at rest or with Valsalva. Normal right ventricular 
cavity size with normal free wall motion. The aortic
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch
diameter is normal. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis.
There is no aortic regurgitation. The mitral valve leaflets 
appear structurally normal with no mitral valve
prolapse. There is trivial mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal. There is
physiologic tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is normal. There is no
pericardial effusion.

IMPRESSION: Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/
global systolic function.

============
MICROBIOLOGY
============
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

==============
DISCHARGE LABS
==============
___ 08:10AM BLOOD WBC-9.4 RBC-4.68 Hgb-14.8 Hct-43.1 MCV-92 
MCH-31.6 MCHC-34.3 RDW-12.7 RDWSD-43.0 Plt ___
___ 08:10AM BLOOD Glucose-108* UreaN-11 Creat-0.8 Na-143 
K-4.3 Cl-99 HCO3-26 AnGap-18
___ 08:10AM BLOOD Calcium-9.7 Phos-2.6* Mg-1.8
 
Brief Hospital Course:
Mr. ___ is a ___ man with ___ notable for HTN, 
tobacco use, and anxiety/depression (self medicated with 
marijuana), who presents with syncope and multiple traumatic 
injuries secondary to the fall.

#Syncope
Based on patient history and symptoms, the primary suspicion is 
vasovagal syncope. There is no clear trigger for this episode 
but it could be secondary to hypovolemia (recent poor PO intake, 
nothing on day of incident, physical labor outside on a 
relatively hot day). Note that he also has significant anxiety 
and the urge for
urination before the incident. TTE normal. No concerning 
findings on EKG or overnight telemetry.

#scalp laceration
Staples placed by ACS/trauma service in the ED. Staples will 
need to be removed ___ after discharge.

#C3 spinous process fracture
#C3-C4 anterior longitudinal ligament injury
#Acute superior endplate compression fractures of T2, T3 and T5
Per ___ consult, injuries do not require surgery and can be 
treated conservatively. Patient given tall Aspen collar, which 
he should wear at all times. Patient instructed that he should 
not lift anything greater than five pounds. Needs follow-up in 
clinic with Dr. ___ in 6 weeks for repeat 
imaging.

#post-prandial fullness
#abdominal gas
___ warrant GI workup as an outpatient.

===================
TRANSITIONAL ISSUES
===================

[] Please remove scalp laceration staples ___ days following 
discharge (___)
[] Please ensure patient wearing tall Aspen collar at all times 
(may remove briefly for skin care - should leave on when 
showering) and not lifting anything above 5 pounds until 
follow-up in ___ clinic
[] Please ensure follow-up in ___ clinic with Dr. ___ 
in 6 weeks (call ___ to make an appointment)
[] Please check BP at next PCP ___. SBPs mostly in the 
130s during this admission.
[] Please inquire regarding GI symptoms (abdominal fullness, 
bloating, gas) at next PCP visit and consider workup if 
indicated
[] Incidental CT findings: Incidental findings include mild 
emphysema, a 1.7 cm hepatic hemangioma and a patulous upper 
esophagus with fluid, which may reflect dysmotility.

#contact: ___ (mother) ___
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSIS
=================
vasovagal syncope
C3 spinous process fracture 
C3/4 ligamentous injury
T3&5 compression fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were here because you fainted and hit your head. You were 
found to have fractures and ligament injuries in your ___. You 
were given a neck brace to wear for your injuries. You had an 
echocardiogram that showed your heart has normal structure and 
function. You also had an EKG and cardiac monitoring that showed 
your heart rhythm is normal. We believe you fainted because of 
vasovagal syncope, which is a sudden drop in heart rate and 
blood pressure in response to stress.

After you leave the hospital, please keep your neck brace on at 
all times (you may remove it briefly for skin care but should 
leave on when showering) and do not lift anything greater than 5 
pounds. You will need to follow these restrictions until you 
follow-up with neurosurgery in 6 weeks and possibly longer. For 
your pain, you should take over-the-counter pain medications as 
needed according to the manufacturer's instructions.

You will need to have the staples removed in ___ days. For 
this, you may visit a primary care doctor, an urgent care 
center, or an emergency room. You may shower with the staples in 
place. 

Please make an appointment to establish care with a primary care 
doctor. 

We wish you the best in the future!

Sincerely,

Your ___ care team.
 
Followup Instructions:
___